US06664265B2
A solution of tert-butyl 2-[2-(2-methyl-5-oxido-1H-imidazo[4,5-c]quinolin-1-yl)ethoxy]ethylcarbamate (11.21 g, 29.0 mmol) in 75 mL of CH2Cl2 was treated with 75 mL of concentrated NH4OH solution. The mixture was chilled in an ice water bath. To the rapidly stirred mixture was added solid p-toluenesulfonyl chloride (5.53 g, 29.0 mmol) over a 10 min period. The reaction mixture was then warmed to room temperature and treated with 75 mL of CH2Cl2 and 75 mL of water. The organic portion was then washed with 1% Na2CO3 solution (3×) and brine. The organic portion was dried over Na2SO4 and concentrated and triturated in ether to yield 7.13 g of tert-butyl 2-[2-(4-amino-2-methyl-1H-imidazo[4,5-c]quinolin-1-yl)ethoxy]ethylcarbamate as a light green solid.

reactant | tert-butyl 2-[2-(2-methyl-5-oxido-1H-imidazo[4,5-c]quinolin-1-yl)ethoxy]ethylcarbamate | 29.0 mmol, 11.21 g | CC=1N(C2=C(C=[N+](C=3C=CC=CC23)[O-])N1)CCOCCNC(OC(C)(C)C)=O | C20H26N4O4
reactant | NH4OH | 75 mL | [NH4+].[OH-]
reactant | p-toluenesulfonyl chloride | 29.0 mmol, 5.53 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | water | 75 mL | O | H2O
solvent | CH2Cl2 | 75 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 75 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 2-[2-(4-amino-2-methyl-1H-imidazo[4,5-c]quinolin-1-yl)ethoxy]ethylcarbamate | 7.13 g | NC1=NC=2C=CC=CC2C2=C1N=C(N2CCOCCNC(OC(C)(C)C)=O)C | C20H27N5O3
